US07842758B2
N,N-Dihexyl-4-vinylaniline
To Methyltriphenylphosphonium bromide (3.07 g, 8.59×10−3 mol) in 50 ml of dry THF was added w-BuLi (2.2 M solution in hexane, 4.00 ml, 8.80×10−3 mol) dropwise at −78° C. After 2.5 h, the reaction mixture was gradually warmed up to 0° C., and again cooled to −78° C. N,N-dihexyl-4-formylaniline (2.26 g, 7.81×10−3 mol) in 15 ml of dry THF was slowly added to the reaction mixture. The reaction mixture was stirred overnight and meanwhile gradually warmed up to 10° C. Aqueous NaCl was added to the reaction mixture and the organic layer was extracted with petroleum ether. The organic layer was dried over Na2SO4. After the solvent was evaporated, the residue was chromatographed on silica gel with 1:1 hexane:CHCl3. Yield=0.775 g (35% based on 2.26 g of N,N-dihexyl-4-formylaniline). 1H NMR (250 MHz, CDCl3): δ 7.27 (d, 2H, J=8.8 Hz, Ph-H), 6.61 (dd, 1H, J=10.9, 17.8 Hz, vinyl-H), 6.58 (d, 2H, J=8.9 Hz, Ph-H), 5.49 (dd, 1H, J=1.1, 17.6 Hz, vinyl-H), 4.97 (dd, 1H, J=0.9, 10.8 Hz, vinyl-H), 3.25 (t, 4H, J=1.7 Hz, NCH2), 1.48-1.66 (m, 4H, NCH2CH2—), 1.20-1.42 (m, 12H, —CH2—), 0.89 (t, 6H, J=6.6 Hz, —CH3). CI MS m/z: 288.269 ((M+H)+) (calcd 288.269).

reactant | N,N-dihexyl-4-formylaniline | 7.81×10−3 mol, 2.26 g | C(CCCCC)N(C1=CC=C(C=C1)C=O)CCCCCC | C19H31NO
reactant | NaCl | [Na+].[Cl-]
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 15 ml | C1CCOC1 | C4H8O
catalyst | Methyltriphenylphosphonium bromide | 8.59×10−3 mol, 3.07 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | N,N-Dihexyl-4-vinylaniline | C(CCCCC)N(C1=CC=C(C=C1)C=C)CCCCCC | C20H33N
